* Z:\mnt\design.r\spice\examples\2ndOrderLowpass.asc
G1 0 N002 1 0 {2/R1}
R2 N002 0 {R1/2}
R4 2 0 .1
L1 N002 N004 {L1} Rser={R1/2}
C2 N004 0 {C1}
G4 0 2 N004 0 {10*H}
* .param f0=1e3 Q=.5
* 2nd Order Low Pass LTSPICE implementation for f0,  Q,  fn, and Qn set by parameters >>>
.param R1=1k
.param L1 = R1*Q/(2*pi*f0)
.param C1 = 1/(L1*(2*pi*f0)**2)
* Vin
* Vout
.backanno
.end
